US04659718
In a similar manner to that described in Example 8(a), 6-fluoro-1H-3,1-benzoxazine-2,4-dione was reacted with (1-methyl-1H-tetrazol-5-yl)methyl lithium to give the novel compound 1-(2-amino-5-fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanone. This product was isolated as a gum which was used in the next stage without further purification.

reactant | 6-fluoro-1H-3,1-benzoxazine-2,4-dione | FC=1C=CC2=C(C(OC(N2)=O)=O)C1 | C8H4FNO3
reactant | (1-methyl-1H-tetrazol-5-yl)methyl lithium | CN1N=NN=C1C[Li]
product | 1-(2-amino-5-fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanone | NC1=C(C=C(C=C1)F)C(CC1=NN=NN1C)=O | C10H10FN5O
